US08242104B2
4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester was treated with hydrochloric acid to give 2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene hydrochloride. 1H NMR 400 MHz (DMSO-d) δ: 9.08 (2H, s), 8.37 (1H, d, J=8.30 Hz), 8.18 (1H, s), 8.07 (1H, s), 7.06 (1H, dd, J=8.35, 1.80 Hz), 6.91 (1H, d, J=1.80 Hz), 5.85 (1H, m), 4.53 (4H, m), 3.35 (2H, d, J=12.46 Hz), 2.98 (2H, m), 2.87 (1H, m), 1.93 (4H, m), 1.50 (6H, d, J=6.57 Hz)

reactant | 4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C26H32N6O3
reactant | hydrochloric acid | Cl | ClH
product | 2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene hydrochloride | Cl.C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)C3CCNCC3 | InChI=1S/C21H26N6O.ClH/c1-14(2)27-21(23-13-24-27)18-12-26-9-10-28-19-11-16(15-5-7-22-8-6-15)3-4-17(19)20(26)25-18;/h3-4,11-15,22H,5-10H2,1-2H3;1H
